US06737435B1
N-(3,4-Dichlorobenzyl)-5-acetoxyindole-2-carboxylic acid
To a solution of N-(3,4-Dichlorobenzyl)-5-hydroxyindole-2-carboxylic acid (10 g) in warm ethyl acetate (250 ml) was added 4-dimethylaminopyridine (100 mg) and acetic anhydride (5.0 ml) and the resulting mixture was stirred for 2 hours. The organics were washed with 1N HCl and dried. Hexane was added to cause crystallision of the product. The solid was filtered and washed with hexane to give the desired product. (5 g, 44%). 1H NMR (DMSO-d6) δ 2.25 (s, 3H), 5.85 (s, 2H), 6.9 (dd, 1H), 7.05 (dd, 1H), 7.3-7.6 (m, 5H); m/z 378, 380 (MH+).

reactant | N-(3,4-Dichlorobenzyl)-5-hydroxyindole-2-carboxylic acid | 10 g | ClC=1C=C(CN2C(=CC3=CC(=CC=C23)O)C(=O)O)C=CC1Cl | C16H11Cl2NO3
reactant | acetic anhydride | 5.0 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
catalyst | 4-dimethylaminopyridine | 100 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | N-(3,4-Dichlorobenzyl)-5-acetoxyindole-2-carboxylic acid | ClC=1C=C(CN2C(=CC3=CC(=CC=C23)OC(C)=O)C(=O)O)C=CC1Cl | C18H13Cl2NO4
